US07777038B2
Sodium hydride (60% in oil) (0.39 g) was added under ice cooling to a THF solution (30 ml) of diethyl malonate (1.85 ml), and stirring was carried out until the generation of hydrogen stopped. 5-(3-Iodopropyl)-8-methoxy-1-methyl-2-oxo-1,2-dihydroquinoline (2.89 g) was added, followed by stirring at room temperature for 4.5 hours. The reaction mixture was added to cold hydrochloric acid, and extraction with dichloromethane was performed. After drying over anhydrous sodium sulfate, the dry product was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (dichloromethane:methanol=20:1). The purified product was concentrated under reduced pressure to thereby obtain 2.94 g (yield: 93%) of diethyl 2-[3-(8-methoxy-1-methyl-2-oxo-1,2-dihydroquinolin-5-yl)propyl]malonate as a yellow oil.

reactant | Sodium hydride | 0.39 g | [H-].[Na+]
reactant | diethyl malonate | 1.85 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | hydrogen | [H][H] | H2
reactant | 5-(3-Iodopropyl)-8-methoxy-1-methyl-2-oxo-1,2-dihydroquinoline | 2.89 g | ICCCC1=C2C=CC(N(C2=C(C=C1)OC)C)=O | C14H16INO2
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | diethyl 2-[3-(8-methoxy-1-methyl-2-oxo-1,2-dihydroquinolin-5-yl)propyl]malonate | 2.94 g, yield: 93% | COC=1C=CC(=C2C=CC(N(C12)C)=O)CCCC(C(=O)OCC)C(=O)OCC | C21H27NO6
